US07659401B2
Step 9: 7-Iodo-2-methyl-5H-thiazolo[4,5-c]pyridin-4-one
2-Methyl-5H-thiazolo[4,5-c]pyridin-4-one (770 mg, 4.6 mmol) was suspended in 25 ml acetonitrile and N-iodosuccinimide (1.04 g, 4.6 mmol) was added. The reaction mixture was refluxed for 3 hrs. The brown suspension was cooled to 5° C. and stirred for 15 min. The solid was filtered, washed with cold acetonitrile and dried for 1 hour at 50° C. and <30 mbar. The crude product (830 mg, 61%) [MS: m/e=292.9 (M+H+)] was used without any further purification for the next step.

reactant | 2-Methyl-5H-thiazolo[4,5-c]pyridin-4-one | 4.6 mmol, 770 mg | CC=1SC2=C(C(NC=C2)=O)N1 | C7H6N2OS
reactant | N-iodosuccinimide | 4.6 mmol, 1.04 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 7-Iodo-2-methyl-5H-thiazolo[4,5-c]pyridin-4-one | IC=1C2=C(C(NC1)=O)N=C(S2)C | C7H5IN2OS
